US09422292B2
An round bottomed flask was charged with ethyl 3-(2-aminophenylamino)butanoate (684 mg, 3.08 mmol) and a stirbar. MeOH (15 mL, 0.1 M) was added, followed by sodium methoxide (249 mg, 4.62 mmol), and the solution was stirred at reflux for 48 h. The mixture was concentrated with celite and purified by silica gel chromatography (eluting with hexanes/ethyl acetate) to yield 4-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one as an off-white amorphous solid (0.22 g, 1.25 mmol, 41%).

reactant | ethyl 3-(2-aminophenylamino)butanoate | 3.08 mmol, 684 mg | NC1=C(C=CC=C1)NC(CC(=O)OCC)C | C12H18N2O2
reactant | sodium methoxide | 4.62 mmol, 249 mg | C[O-].[Na+]
solvent | MeOH | 0.1 M, 15 mL | CO | CH4O
product | 4-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 1.25 mmol, 0.22 g, 41% | CC1NC2=C(NC(C1)=O)C=CC=C2 | C10H12N2O
